US06448405B1
6-Fluoro-1,2-dihydro-2,2,4-trimethylindeno[1,2-g]quinoline (Compound 126, Structure 16, Scheme IV, Where R2, R4-6=H, R3=F, X=CH2)
This compound was prepared according to General Method 3 (EXAMPLE 16) from 2-amino-5-fluorofluorene (structure 15, where R2, R4-6=H, R3=F, X=CH2) (360 mg, 1.72 mmol) to 125 mg (26%) of Compound 126 as a light brown solid. Data for Compound 126: Rf=0.63 (silca gel, hexane/EtOAc, 3:1); 1H NMR (400 MHz, acetone-d6): 7.55 (s, 1H), 7.25 (d, J=7.3, 1H), 7.12 (m, 1H), 7.02 (d, J=10, 10, 1H) 6.73 (s, 1H), 5.39 (s, 1H), 3.81 (s, 2H), 2.87 (s, 3H), 1.28 (s, 6H).

reactant | 2-amino-5-fluorofluorene | 1.72 mmol, 360 mg | NC1=CC=2CC3=CC=CC(=C3C2C=C1)F | C13H10FN
solvent | hexane EtOAc | CCCCCC.CCOC(=O)C
product | 6-Fluoro-1,2-dihydro-2,2,4-trimethylindeno[1,2-g]quinoline | FC1=CC=CC=2C=C3C(=CC4=C(CC(NC4=C3)(C)C)C)C12 | C19H18FN
